US05017711
According to a preferred embodiment of the invention, NaOH is added to a mixture consisting of 2,2,3,6-tetramethyl-1-cyclohexanone and trimethylsulfonium chloride in dimethylsulfoxide. The reaction is slightly exothermic, hence the necessity to maintain an external cooling of the reaction mixture so as to keep the temperature at about 25°-30° C. Good stirring is also applied for about 6 hr. 4,4,5,8-Tetramethyl-1-oxaspiro[2.5]octane is then obtained by extraction of the resulting mixture with petrol ether, concentration of the organic extracts and fractional distillation.

reactant | NaOH | [OH-].[Na+]
reactant | 2,2,3,6-tetramethyl-1-cyclohexanone | CC1(C(C(CCC1C)C)=O)C | C10H18O
reactant | trimethylsulfonium chloride | [Cl-].C[S+](C)C
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 4,4,5,8-Tetramethyl-1-oxaspiro[2.5]octane | CC1(C2(CO2)C(CCC1C)C)C | C11H20O
